US06489344B1
20 mmol of 1-(4-ethylphenyl)ethan-1-one, 1 ml conc. HCl were mixed in 20 ml diethyl ether at 0° C. under nitrogen. To this solution a solution of 20 mmol Br2 in 20 ml chloroform was added drop wise and left for four hours and then concentrated in vacuo to obtain 2-bromo-1-(4-ethylphenyl)ethan-1-one.

reactant | 1-(4-ethylphenyl)ethan-1-one | 20 mmol | C(C)C1=CC=C(C=C1)C(C)=O | C10H12O
reactant | HCl | 1 ml | Cl | ClH
reactant | Br2 | 20 mmol | BrBr | Br2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(4-ethylphenyl)ethan-1-one | BrCC(=O)C1=CC=C(C=C1)CC | C10H11BrO
